US04132746
(a) Boc-Pro-Gly-OMe (I)
To a solution of Boc-Pro-OH (73.2 g, 340 mmol) and triethylamine (47.6 ml, 340 mmol) in tetrahydrofurane (300 ml), cooled to -10°, was added isobutyl chloroformate (44.5 ml, 340 mmol). After 15 min., a solution of H-Gly-OMe.HCl (42.7 g, 340 mmol) and triethylamine (47.6 ml, 340 mmol) in chloroform (300 ml) was added to the stirring solution. The mixture was stirred at 0° for 1 h and at room temperature for 24 h. The organic solvent was removed under reduced pressure and the residue, dissolved in ethyl acetate, was washed with 10% citric acid solution, 4% sodium bicarbonate solution, water and dried over anhydrous sodium sulfate. The solution was evaporated and the oily residue was crystallized on addition of petroleum ether; yield 71.8 g (84%), m.p. 70-72° C., Rf1 0.70. Calcd. for C13H22N2O5 :C, 54.53; H, 7.75; N, 9.78%. Found: C, 55.03; H, 7.58; N, 9.34%.

reactant | Boc-Pro-OH | 340 mmol, 73.2 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | triethylamine | 340 mmol, 47.6 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 340 mmol, 44.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Gly-OMe.HCl | 340 mmol, 42.7 g | NCC(=O)OC.Cl
reactant | triethylamine | 340 mmol, 47.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 300 ml | O1CCCC1 | C4H8O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | Boc-Pro-Gly-OMe | N1([C@H](C(=O)NCC(=O)OC)CCC1)C(=O)OC(C)(C)C | C13H22N2O5
